US04757080
(b) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2,3-dichlorophenyl)-5-(2-aminoethoxy)carbonyl-pyridine
Prepared by a method analogous to that of Example 1(b) from 10.0 g (19 mmol) of 1,4-dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2,3-dichlorophenyl)-5-(2-phthalimidoethoxy)carbonyl-pyridine and 2.84 ml (57 mmol) of hydrazine hydrate. 3.85 g (51%) of pale yellow crystals melting at 166°-167° C. obtained from tert.-butylmethyl ether.

reactant | 1,4-dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2,3-dichlorophenyl)-5-(2-phthalimidoethoxy)carbonyl-pyridine | 19 mmol, 10.0 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C26H22Cl2N2O6
reactant | hydrazine hydrate | 57 mmol, 2.84 ml | O.NN
solvent | tert.-butylmethyl ether | C(C)(C)(C)OC | C5H12O
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(2,3-dichlorophenyl)-5-(2-aminoethoxy)carbonyl-pyridine | 3.85 g, 51% | CC=1NC(=C(C(C1C(=O)OC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OCCN)C | C18H20Cl2N2O4
